US07807686B2
Bis(pinacolato)diboron (0.59 g, 2.33 mmol), potassium acetate (0.34 g, 3.50 mmol) and PdCl2(dppf) (95 mg, 0.12 mmol) were added sequentially to a degassed solution of 2-[6-bromo-2-(3-methoxyphenyl)-4-oxo-4H-quinazolin-3-yl]-N-isopropylacetamide (INTERMEDIATE IV.10) (0.50 g, 1.16 mmol) in anhydrous DMF (50 mL) and the reaction mixture was heated at 80° C. for 24 h. The solvent was removed in vacuo and the brown residue partitioned between water and ethyl acetate. The organic layer was washed with water and brine, dried (Na2SO4) and the solvent evaporated in vacuo. The residue was purified by chromatography on silica gel with ethyl acetate:dichloromethane (3:7, v/v) as eluent to give N-isopropyl-2-[2-(3-methoxyphenyl)-4-oxo-6-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-4H-quinazolin-3-yl]acetamide (0.51 g, 1.07 mmol, 92%).

reactant | Bis(pinacolato)diboron | 2.33 mmol, 0.59 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.50 mmol, 0.34 g | C(C)(=O)[O-].[K+]
reactant | 2-[6-bromo-2-(3-methoxyphenyl)-4-oxo-4H-quinazolin-3-yl]-N-isopropylacetamide | 1.16 mmol, 0.50 g | BrC=1C=C2C(N(C(=NC2=CC1)C1=CC(=CC=C1)OC)CC(=O)NC(C)C)=O | C20H20BrN3O3
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | 0.12 mmol, 95 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-isopropyl-2-[2-(3-methoxyphenyl)-4-oxo-6-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-4H-quinazolin-3-yl]acetamide | 1.07 mmol, 0.51 g, 92% | C(C)(C)NC(CN1C(=NC2=CC=C(C=C2C1=O)B1OC(C(O1)(C)C)(C)C)C1=CC(=CC=C1)OC)=O | C26H32BN3O5
